US07592357B2
Step 1. Methyl 4-(4-chlorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate
4-Chlorobenzaldehyde (1.30 g, 9.30 mmol, 1.00 equiv), 2,2-dimethyl-1,3-dioxane-4,6-dione (1.34 g, 9.30 mmol, 1.00 equiv), methyl acetoacetate (1.00 mL, 9.30 mmol, 1.00 equiv), and ammonium acetate (0.752 g, 9.77 mmol, 1.05 equiv) were dissolved in acetic acid (10 mL) and heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, neutralized with solid K2CO3, and diluted with EtOAc and water. The phases were separated, and the organic phase was washed with satd. NaCl. The organic phase was dried over Na2SO4, filtered and concentrated en vacuo to a yellow residue. Recrystallization (CH2Cl2/hexanes) provided 735 mg (28%) of the product as a pale yellow solid. MS (ES+) m/e 280 [M+H]+.

reactant | 4-Chlorobenzaldehyde | 9.30 mmol, 1.30 g, 1.00 equiv | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 9.30 mmol, 1.34 g, 1.00 equiv | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | methyl acetoacetate | 9.30 mmol, 1.00 mL, 1.00 equiv | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonium acetate | 9.77 mmol, 0.752 g, 1.05 equiv | C(C)(=O)[O-].[NH4+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | Methyl 4-(4-chlorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate | 735 mg, 28% | ClC1=CC=C(C=C1)C1C(=C(NC(C1)=O)C)C(=O)OC | C14H14ClNO3
